US06372762B1
5-Trimethylstannayl-3,3a,4,6a-tetrahydro-1H-pentalen-2-one, ethylene ketal (1.00 g, 3.04 mmol), 2-bromobenzonitrile (0.58 g, 3.19 mmol), bis(acetonitrile)dichloropalladium (II) (0.040 g, 0.154 mmol), tri-o-tolylphosphine (0.095 g, 0.312 mmol), triethyl amine (0.45 mL, 3.23 mmol) and 2,6-di-tert-butyl-4-methylphenol (5 mg) in DMF (10 mL) were heated at 100-115° C. for 1 hour. The dark mixture was cooled, diluted with 1N lithium chloride solution (75 mL) and extracted with ether (2×50 mL). The extract was filtered through Celite to remove a dark brown sludge and then washed again with 1N LiCl and brine, dried over magnesium sulfate and concentrated to a brown oil. Flash chromatography on silica gel using a 20-40% ethyl acetate/hexanes gradient for elution yielded 0.388 g (57%) of 5-(2-cyano-phenyl)-3,3a,4,6a-tetrahydro-1H-pentalen-2-one as a pink tinted oil. A portion was recrystallized from ether to give a white solid which had the following properties: mp 63-64° C.; NMR (CDCl3) δ 7.65 (d, J=7.7 Hz, 1H), 7.53 (t, J=7.7 Hz, 1H), 7.37-7.31 (m, 2H), 6.33 (t, J=1.0 Hz, 1H), 3.69-3.65 (m, 1H), 3.26-3.19 (m, 1H), 3.17-3.09 (m, 1H), 2.67 (d, J=16.0 Hz, 1H), 2.61-2.51 (m, 2H), 2.38 (d, J=17.2 Hz, 1H), 2.17 (dd, J1=18.1 Hz, J2=7.1 Hz, 1H); 13C NMR (CDCl3) δ 218.00, 140.06, 139.58, 135.48, 134.06, 132.65, 128.17, 127.53, 119.05, 109.98, 47.36, 44.65, 42.35, 42.31, 37.57; IR(KBr) 3033, 2954, 2937, 2906, 2897, 2849, 2218, 1729, 1491, 1391, 1181, 1162, 870, 771, 741, 489; Anal. calculated for C15H13NO: C, 80.69; H, 5.87; N, 6.27. Found: C, 80.36; H, 6.04; N, 6.20.

reactant | 2-bromobenzonitrile | 3.19 mmol, 0.58 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | tri-o-tolylphosphine | 0.312 mmol, 0.095 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethyl amine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | lithium chloride | 1N, 75 mL | [Cl-].[Li+]
catalyst | bis(acetonitrile)dichloropalladium | 0.154 mmol, 0.040 g | CC#N.CC#N.Cl[Pd]Cl
catalyst | 2,6-di-tert-butyl-4-methylphenol | 5 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 5-(2-cyano-phenyl)-3,3a,4,6a-tetrahydro-1H-pentalen-2-one | 0.388 g, 57% | C(#N)C1=C(C=CC=C1)C=1CC2CC(CC2C1)=O | C15H13NO
